reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C+:1](=[C:3]([O-:2])[C:4]([O:5][C:6]([H:7])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],59.88298064382891
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:7][H:13].[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[N:4]([H:12])[C:5]1=[O:6],83.586185370455
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1=[C:4]([C:5]([H:11])([H:12])[H:13])[H:6]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],95.94431331290237
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C-:4])[N+:6]#[C:5])([H:10])[H:11])([H:7])([H:8])[H:9],94.1336784186085
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],43.107288622191106
[O:1]([C@@:2]1([H:8])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5][N:6]1[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],59.445665037504476
[N:1]#[C:2][C:3]([N:5]([C:4][H:7])[H:9])([H:6])[H:8]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],45.950916869075485
[N:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][C:6](=[O:7])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],31.738352316239304
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:7])[H:11])([H:8])([H:9])[H:10].[C:6]([H:12])([H:13])([H:14])[H:15]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],76.23342562981918
[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[N:3]([C:4]([H:13])([H:14])[H:15])[C@:5]([C:7]([H:16])([H:17])[H:18])([H:10])[O:6]1>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],94.3311568549196
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[N:3])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12].[O:4]([H:10])[H:13],48.7876513621498
[O+:1](=[C-:2][H:7])[C:4]1([H:9])[C:3]([H:8])([H:10])[O:6][C:5]1([H:11])[H:12]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],59.79827229162521
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:12])[C:3]([H:13])([H:14])[C@@:4]([C:5]([H:16])([H:17])[H:18])([H:15])/[C:6]1=[N:7]\[H:11])([H:8])([H:9])[H:10],99.09616502857159
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:4](/[C:3]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10],93.7470406393602
[C:1]([O:2][C:3]([C@@:4]1([H:13])[O:5][C:6]1([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:14])[H:17]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.3086517457069
[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.7688677394062
[C:1]([C:2]([O:3][C:5]#[N:6])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],57.43079171285791
[N:1]1([H:7])[C@@:2]([O:6][C:5](=[C:4]([H:9])[H:10])[H:11])([H:8])[O:3]1>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],52.67291848265191
[N:1]([C:2](=[N:3][N:4]([H:9])[H:10])[N+:6]#[C-:5])([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],41.9530639390703
[C:1](=[C:2]([H:9])[H:10])([H:6])[H:7].[C:3]([C:4]([H:12])([H:13])[H:14])(=[C:5]([H:16])[H:17])[H:11].[H:8][H:15]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],41.54422430100689
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:13])([H:11])[H:12])([H:7])([H:8])[H:9],72.5877392836283
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]([C:2]1=[N+:7]=[C-:6][C:5]([H:12])([H:13])[C:4]([H:10])([H:11])[O:3]1)([H:8])[H:9],125.282532977984
[H:15][H:16].[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],65.70165338407179
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:6]#[N:7])[H:14])([H:8])([H:9])[H:10].[C:4]([O:5][H:16])[H:15],80.8283292702822
[C-:1]([O+:2]=[C:3]([H:7])[H:9])([H:5])[H:6].[H:4][H:8]>>[C:1]([O:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6],2.2455008940718955
